US04146637
Nicotinic acid (6.82 grams);
(0.075 mole) and metoclopramide (14.9 grams; (0.95 mole) having the melting point of 148° C. are dissolved in 100 ml. of chloroform. At ambient temperature, 5.6 grams of phosphorous oxychloride are added drop by drop and the batch is heated for three more hours under reflux. After extraction with 80 ml. of 10% caustic soda solution, and subsequently with water, the chloroform solution is concentrated in a vacuum and the distillation residue having a boiling point of 100 to 140° C. is recrystallized from benzene. There is thus obtained 10.4 g. (51.4% of theory) of 4-nicotinoylamino-5-chloro-2-methyoxy-N-[2-(diethylamino)ethyl]benzamide having a melting point of 99° to 100° C.

reactant | metoclopramide | CCN(CC)CCNC(=O)C=1C=C(C(=CC1OC)N)Cl | C14H22ClN3O2
reactant | phosphorous oxychloride | 5.6 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
